* KiCad Netlist (Mock)
* Generated from: schematic.kicad_sch

.title Mock Circuit Simulation

* Voltage source
V1 VCC 0 DC 5V

* Resistors
R1 VCC n1 1k
R2 n1 0 2k

* Capacitor
C1 n1 0 100n

* Transistor (NPN)
Q1 out n1 0 2N2222

* Load resistor  
RL out VCC 10k

* Analysis commands
.tran 1u 10m
.dc V1 0 10 0.1
.ac dec 10 1 100k

.control
run
plot v(out) v(n1)
.endc

.end
